US05747535
Synthesis of {[(S)-2-(t-butoxycarbonylamino)-3-(4-cyanophenyl)-propionyl]-methylamino}-acetic acid methyl ester
(S)-2-(t-butoxycarbonylamino)-3-(4-cyanophenyl)propionic acid(0.5 g, 1.72 mmole) was dissolved in dimethylformamide (DMF). The resulting solution was cooled down to 0° C., and then 1-(3-dimethylaminopropyl)-3-methylcarbodiimide hydrochloride(EDC, 0.39 g) and 1-hydroxybenzotriazole(HOBT, 0.28 g) were added thereto and stirred until they are completely dissolved. Separately, the compound(0.35 g, 1.72 mmole) prepared in Preparation 7 was dissolved in dichloromethane(2 ml) and cooled down to -10° C. Trifluoroacetic acid(2 ml) was added thereto and the mixture was stirred for 5 minutes, slowly warmed to room temperature, stirred again for 30 minutes and then distilled under reduced pressure to remove the volatile substance. The resulting compound thus prepared and N-methylmorpholine(1 ml) were added to the solution as obtained above, and then the reaction solution was slowly warmed to room temperature and stirred for 3.5 hours. Upon completion of the reaction, the reaction solution was distilled under reduced pressure to remove the volatile substance. The residue was diluted with ethyl acetate, washed successively with aqueous saturated sodium hydrogen carbonate solution, dilute hydrochloric acid and brine, dried over anhydrous sodium sulfate, filtered and then concentrated. The residue was purified by column chromatography using ethyl acetate/hexane(3/7,by volume) as an eluent to obtain the purified title compound(0.58 g, Yield: 90%).

reactant | (S)-2-(t-butoxycarbonylamino)-3-(4-cyanophenyl)propionic acid | 1.72 mmole, 0.5 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C#N | C15H18N2O4
reactant | 1-(3-dimethylaminopropyl)-3-methylcarbodiimide hydrochloride | 0.39 g | Cl.CN(CCCN=C=NC)C
reactant | 1-hydroxybenzotriazole | 0.28 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-methylmorpholine | 1 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | {[(S)-2-(t-butoxycarbonylamino)-3-(4-cyanophenyl)-propionyl]-methylamino}-acetic acid methyl ester | 0.58 g, Yield: 90% | COC(CN(C)C([C@H](CC1=CC=C(C=C1)C#N)NC(=O)OC(C)(C)C)=O)=O | C19H25N3O5
